US08685977B2
4-[(3,4-Dichlorophenyl)sulfanyl]-N-(methylsulfonyl)benzamide
To a stirred solution of 4-[(3,4-dichlorophenyl)sulfanyl]benzoic acid (Preparation 151, 200 mg, 0.67 mmol) in dichloromethane (5 mL) was added methanesulphonamide (192 mg, 2.01 mmol), 4-dimethylaminopyridine (245 mg, 2.01 mmol) and N-(3-dimethylaminopropyl)-M-ethylcarbodiimide hydrochloride (384 mg, 2.01 mmol) and the mixture was stirred at room temperature for 18 hours. The mixture was diluted with dichloromethane, washed with 1M hydrochloric acid solution and water, dried over Na2SO4 and the solvent evaporated in vacuo. The crude product was purified by preparative HPLC to afford the title compound as a white solid (34 mg, 12%).

reactant | 4-[(3,4-dichlorophenyl)sulfanyl]benzoic acid | 0.67 mmol, 200 mg | ClC=1C=C(C=CC1Cl)SC1=CC=C(C(=O)O)C=C1 | C13H8Cl2O2S
reactant | methanesulphonamide | 2.01 mmol, 192 mg | CS(=O)(=O)N | CH5NO2S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 2.01 mmol, 245 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-[(3,4-Dichlorophenyl)sulfanyl]-N-(methylsulfonyl)benzamide | 34 mg, 12% | ClC=1C=C(C=CC1Cl)SC1=CC=C(C(=O)NS(=O)(=O)C)C=C1 | C14H11Cl2NO3S2
